US04243819
To a solution of α-bromoisovaleric acid (2 g, 0.110 mole) and 5 ml of methanol is added one drop of phenolphthalein and then sufficient sodium hydroxide/methanol until adjusted to neutral pH. The solvent is then stripped off and p-chloroaniline (7 g, 0.055 mole) added. The mixture is melted in a 100° bath and stirred at 100° for 3 hours. The mixture is cooled and taken up in ether, and 10% aqueous sodium hydroxide is added. The aqueous phase is acidified to pH 4 and extracted with ether. The ether extracts are combined and washed with brine, dried over sodium sulfate and stripped to yield N-(p-chlorophenyl)valine.

reactant | α-bromoisovaleric acid | 0.110 mole, 2 g | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | sodium hydroxide methanol | [OH-].[Na+].CO
reactant | p-chloroaniline | 0.055 mole, 7 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | phenolphthalein | one drop | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
solvent | ether | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | N-(p-chlorophenyl)valine | ClC1=CC=C(C=C1)N[C@@H](C(C)C)C(=O)O | C11H14ClNO2
